* source 6V HILO CUTOUT
.SUBCKT SCHEMATIC1   
R_HB1_R5         0 HB1_N00292  53k TC=0,0 
R_HB1_R6         HB1_N00292 N00460  11k TC=0,0 
R_HB1_R7         N00460 VCC  1k TC=0,0 
C_HB1_C1         0 N00460  1n  TC=0,0 
X_HB1_U3         N00460 0 HB1_N00292 TL431 
R_HB1_R8         HB1_N02713 N00460  8.2k TC=0,0 
R_HB1_R9         0 HB1_N02713  56k TC=0,0 
R_HB1_R10         HB1_N02709 HB1_N02713  8.2k TC=0,0 
R_HB1_R11         0 HB1_N02861  10k TC=0,0 
V_V2         VCC 0  
+PWL 0 0 0.01 5 0.02 6.6 0.03 6.1 0.04 5.5 0.1 5.5 0.15 6 
.ENDS
