* source 6V HILO CUTOUT
R_HB1_R5         0 HB1_N08932  53k TC=0,0 
R_HB1_R6         HB1_N08932 HB1_N00633  11k TC=0,0 
R_HB1_R7         HB1_N00633 VCC  1k TC=0,0 
R_HB1_R12         HB1_N04208 HB1_N00633  8.2k TC=0,0 
R_HB1_R13         0 HB1_N04208  56k TC=0,0 
R_HB1_R14         HB1_N04208 HB1_N10787  1k TC=0,0 
R_HB1_R15         0 HB1_N13416  56.2k TC=0,0 
R_HB1_R16         HB1_N13416 VCC  56k TC=0,0 
X_HB1_U5         HB1_N00633 0 HB1_N08932 TL431
C_HB1_C3         0 HB1_N00633  1n  TC=0,0 
R_HB1_R17         HB1_N14594 VCC  39k TC=0,0 
R_HB1_R18         0 HB1_N14594  26k TC=0,0 
X_HB1_DualOpAmp_U7         HB1_N14594 HB1_N10787 VCC 0 N02044 LM358
X_HB1_DualOpAmp_U6         HB1_N10787 HB1_N13416 VCC 0 N01591 LM358
V_V2         VCC 0  
+PWL 0 0 0.01 5 0.02 6.6 0.03 6.1 0.04 4 0.1 8 0.15 6 
C_LED_Driver_C3         0 N02530  12u  TC=0,0 
X_LED_Driver_U1         LED_Driver_N29095 0 LED_Driver_N29369 0
+  LED_Driver_N29209 VCC LED_Driver_N29101 LED_Driver_N294797 MC34063A
C_LED_Driver_C2         0 VCC  10u  TC=0,0 
C_LED_Driver_C1         0 LED_Driver_N29369  400p  TC=0,0 
R_LED_Driver_R13         LED_Driver_N29209 N02530  6.6K TC=0,0 
R_LED_Driver_R9         LED_Driver_N294797 LED_Driver_N29101  180 TC=0,0 
R_LED_Driver_R14         VCC LED_Driver_N29101  .5 TC=0,0 
R_LED_Driver_R16         LED_Driver_MEDIUM LED_Driver_N29101  1.5 TC=0,0 
D_LED_Driver_D1         LED_Driver_N29095 N02530 D1N5819 
R_LED_Driver_R12         0 LED_Driver_N29209  1k TC=0,0 
R_LED_Driver_R15         LED_Driver_LOW LED_Driver_N29101  2.5 TC=0,0 
L_LED_Driver_L1         LED_Driver_N29095 LED_Driver_N29101  200uH  
D_LOAD_LED_D6         LOAD_LED_N00203 0 LW_G6SP-TYP 
D_LOAD_LED_D9         LOAD_LED_N00305 0 LW_G6SP-TYP 
D_LOAD_LED_D5         LOAD_LED_N00199 LOAD_LED_N00203 LW_G6SP-TYP 
D_LOAD_LED_D8         LOAD_LED_N00301 LOAD_LED_N00305 LW_G6SP-TYP 
D_LOAD_LED_D4         N02530 LOAD_LED_N00199 LW_G6SP-TYP 
D_LOAD_LED_D7         N02530 LOAD_LED_N00301 LW_G6SP-TYP 
D_LOAD_LED_D3         LOAD_LED_N00103 0 LW_G6SP-TYP 
D_LOAD_LED_D2         LOAD_LED_N00099 LOAD_LED_N00103 LW_G6SP-TYP 
D_LOAD_LED_D1         N02530 LOAD_LED_N00099 LW_G6SP-TYP 
