* source LEDDRIVER
X_D1         N08506 N08501 awb1n4148 PARAMS:                
X_D2         N06043 N09035 awb1n4148 PARAMS:                
C_C1         N06043 0 10n TC=0
X_X1         0 N06043 N04012 N02122 N01183 N06043 N08506 N02122 555D PARAMS:
+  MAXFREQ=3E6
R_R1         N04012 N04016 1k
X_Q1         N09108 N04016 0 awb2n2222 PARAMS:                                 
+            
D_D3         N09770 N02122 1N5819
