* source LEDDRIVER
.EXTERNAL INPUT PV+
X_D1         N08506 N10812 awb1n4148 PARAMS:                
X_D2         N11256 N09035 awb1n4148 PARAMS:                
C_C1         N06043 0 10n TC=0
X_X1         0 N06043 N04012 N02122 N01183 N06043 N08506 N02122 555D PARAMS:
+  MAXFREQ=3E6
R_R1         N04012 N04016 1k
X_Q1         N09108 N04016 0 awb2n2222 PARAMS:                                 
+            
D_D3         PV+ N08211 1N5819
R_R2         N11355 N10812 1k
R_R3         N06043 N11256 1k
R_R4         N02122 N12295 1k
R_R5         N12288 0 10
